US09193694B2
A mixture of 7-bromo-4-(pyrimidin-2-ylmethyl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one (50 mg, 0.15 mmol), 2-(3-fluoro-4-(trifluoromethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (52 mg, 0.18 mmol), cesium carbonate (146 mg, 0.45 mmol), 1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (10 mg, 0.015 mmol) was dissolved in a degassed mixture of DMF and water 3/1.5 (4.5 mL). The mixture was heated in microwave at 85° C. for 40 min. The mixture was poured into EtOAc and washed with water and brine. The organic layer was collected, dried over sodium sulfate and loaded onto silica gel. A flash column (5% MeOH in EtOAc) and reverse phase chromatography gave 7-(3-fluoro-4-(trifluoromethyl)phenyl)-4-(pyrimidin-2-ylmethyl)-3,4-dihydrobenzo[f][1,4]oxazepin-5 (2H)-one.

reactant | 7-bromo-4-(pyrimidin-2-ylmethyl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one | 0.15 mmol, 50 mg | BrC=1C=CC2=C(C(N(CCO2)CC2=NC=CC=N2)=O)C1 | C14H12BrN3O2
reactant | 2-(3-fluoro-4-(trifluoromethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.18 mmol, 52 mg | FC=1C=C(C=CC1C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C13H15BF4O2
reactant | cesium carbonate | 0.45 mmol, 146 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 4.5 mL | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium | 0.015 mmol, 10 mg | Cl[Pd]Cl
product | 7-(3-fluoro-4-(trifluoromethyl)phenyl)-4-(pyrimidin-2-ylmethyl)-3,4-dihydrobenzo[f][1,4]oxazepin-5 (2H)-one | FC=1C=C(C=CC1C(F)(F)F)C=1C=CC2=C(C(N(CCO2)CC2=NC=CC=N2)=O)C1 | C21H15F4N3O2
